US08729112B2
4-(fluoromethyl)-4-methyloxazolidin-2-one
A solution of benzyl 1-fluoro-3-hydroxy-2-methylpropan-2-ylcarbamate (562 mg, 2.3 mmol) in THF (29 ml) was cooled to 0° C. and 60% NaH in mineral oil (117 mg, 2.9 mmol) was added. The reaction was warmed to RT over 3 h, and then heated to 50° C. for 16 h. AcOH (200 ul) was added to quench the reaction, and the solution was concentrated in vacuo. The residue was purified by flash chromatography (1% to 12% MeOH in DCM) to afford the title compound as a clear oil (251 mg, 82%). 1H NMR (CDCl3, 400 MHz) δ 1.40 (d, J=2.0 Hz, 3H), 4.08 (dd, J=2.0, 8.8 Hz, 1H), 4.24 (dd, J=9.6, 20.4 Hz, 1H), 4.32-4.40 (m, 2H), 6.61 (s, 1H). 19F NMR (CDCl3, 376 MHz) δ −225.4 (t, J=47 Hz). 13C NMR (CDCl3, 100 MHz) δ 21.7 (d, J=3 Hz), 67.4 (d, J=20 Hz), 72.3 (d, J=4.2 Hz), 86 (d, J=178 Hz), 159.3 (s).

reactant | benzyl 1-fluoro-3-hydroxy-2-methylpropan-2-ylcarbamate | 2.3 mmol, 562 mg | FCC(CO)(C)NC(OCC1=CC=CC=C1)=O | C12H16FNO3
reactant | NaH | [H-].[Na+]
reactant | AcOH | 200 ul | CC(=O)O | C2H4O2
solvent | THF | 29 ml | C1CCOC1 | C4H8O
product | 4-(fluoromethyl)-4-methyloxazolidin-2-one | 251 mg, 82% | FCC1(NC(OC1)=O)C | C5H8FNO2
